US08486967B2
b) (4,6-Dimethyl-pyrimidin-2-yl)-piperidin-4-yl-amine
To a solution of 4-(4,6-dimethyl-pyrimidin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester in THF (50 mL) was added dropwise at 0° C. hydrochloric acid (4 M in dioxane, 44.3 mL) and the reaction mixture was stirred for 22 hours at ambient temperature. The resulting suspension was filtered and dried. The residue was diluted with water (160 mL) and washed with ethyl acetate (130 mL). To the aqueous layer were added ethyl acetate (160 mL) and sodium carbonate (28.5 g) and it was extracted with ethyl acetate (160 mL). Drying of the combined organic layers over sodium sulfate afforded the title compound (2.15 g, 59%) as a light yellow solid.

reactant | 4-(4,6-dimethyl-pyrimidin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC(=CC(=N1)C)C | C16H26N4O2
reactant | hydrochloric acid | 4 M, 44.3 mL | Cl | ClH
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (4,6-Dimethyl-pyrimidin-2-yl)-piperidin-4-yl-amine | 2.15 g, 59% | CC1=NC(=NC(=C1)C)NC1CCNCC1 | C11H18N4
